### PR TITLE
[Merged by Bors] - feat(Tactic/ComputeAsymptotics/Multiseries): introduce `Multiseries.Sorted`

### PR DESCRIPTION
**Pull request by vasnesterov**
* Introduce `Multiseries.leadingExp` - the leading exponent of a multiseries, along with a few structural lemmas.
* Introduce `Multiseries.Sorted` predicate stating that exponents in a multiseries as a list are strictly decreasing.
* Provide constructors (`nil`, `cons`), a coinductive principle, and basic constructions for `Sorted`.

---

This is a part of the `compute_asymptotics` tactic (#28291).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 1]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+of `Stream'.Seq.Pairwise`. `(exp₁, coef₁) ≤ (exp₂, coef₂)` iff `exp₁ ≤ exp₂`. -/
+scoped instance {basis} : Preorder (ℝ × MultiseriesExpansion basis) := Preorder.lift Prod.fst
+
+private theorem lt_iff_lt {basis} {exp1 exp2 : ℝ} {coef1 coef2 : MultiseriesExpansion basis} :
+    (exp1, coef1) < (exp2, coef2) ↔ exp1 < exp2 := by
+  rfl
+
+/-- Multiseries `ms` is `Sorted` when at each its level exponents are sorted. -/
+inductive Sorted : {basis : Basis} → (MultiseriesExpansion basis) → Prop
+| const (ms : MultiseriesExpansion []) : Sorted ms
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
| const (ms : MultiseriesExpansion []) : ms.Sorted
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 2]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+
+/-- Auxilary instance for order on pairs `(exp, coef)` used below to define `Sorted` in terms
+of `Stream'.Seq.Pairwise`. `(exp₁, coef₁) ≤ (exp₂, coef₂)` iff `exp₁ ≤ exp₂`. -/
+scoped instance {basis} : Preorder (ℝ × MultiseriesExpansion basis) := Preorder.lift Prod.fst
+
+private theorem lt_iff_lt {basis} {exp1 exp2 : ℝ} {coef1 coef2 : MultiseriesExpansion basis} :
+    (exp1, coef1) < (exp2, coef2) ↔ exp1 < exp2 := by
+  rfl
+
+/-- Multiseries `ms` is `Sorted` when at each its level exponents are sorted. -/
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: missing a word?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 3]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+inductive Sorted : {basis : Basis} → (MultiseriesExpansion basis) → Prop
+| const (ms : MultiseriesExpansion []) : Sorted ms
+| seq {hd} {tl} (ms : MultiseriesExpansion (hd :: tl))
+    (h_coef : ∀ x ∈ ms.seq, x.2.Sorted)
+    (h_Pairwise : Seq.Pairwise (· > ·) ms.seq) : ms.Sorted
+
+/-- Multiseries `ms` is `Sorted` when at each its level exponents are sorted. -/
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: same here?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 4]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+private theorem lt_iff_lt {basis} {exp1 exp2 : ℝ} {coef1 coef2 : MultiseriesExpansion basis} :
+    (exp1, coef1) < (exp2, coef2) ↔ exp1 < exp2 := by
+  rfl
+
+/-- Multiseries `ms` is `Sorted` when at each its level exponents are sorted. -/
+inductive Sorted : {basis : Basis} → (MultiseriesExpansion basis) → Prop
+| const (ms : MultiseriesExpansion []) : Sorted ms
+| seq {hd} {tl} (ms : MultiseriesExpansion (hd :: tl))
+    (h_coef : ∀ x ∈ ms.seq, x.2.Sorted)
+    (h_Pairwise : Seq.Pairwise (· > ·) ms.seq) : ms.Sorted
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean:467]: I'm probably just confused, why is it "decreasing" and not increasing?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 5]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+
+/-- Multiseries `ms` is `Sorted` when at each its level exponents are sorted. -/
+def Multiseries.Sorted {basis_hd basis_tl} (s : Multiseries basis_hd basis_tl) : Prop :=
+  (mk s 0).Sorted (basis := basis_hd :: basis_tl)
+
+variable {basis_hd : ℝ → ℝ} {basis_tl : Basis}
+
+@[simp]
+theorem Sorted_iff_Seq_Sorted {ms : MultiseriesExpansion (basis_hd :: basis_tl)} :
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_iff_seq_sorted {ms : MultiseriesExpansion (basis_hd :: basis_tl)} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 6]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+    cases h with | seq _ h_coef h_Pairwise =>
+    constructor
+    · simpa using h_coef
+    · simpa using h_Pairwise
+
+namespace Multiseries
+
+@[simp]
+theorem Sorted.nil : Sorted (nil : Multiseries basis_hd basis_tl) := by
+  unfold Sorted
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
```

this line seems to be optional

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 7]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+
+theorem Sorted.tail {ms : Multiseries basis_hd basis_tl} (h : ms.Sorted) :
+    ms.tail.Sorted := by
+  cases ms with
+  | nil => simp
+  | cons exp coef tl => simpa using (Sorted_cons h).right.right
+
+/-- Coinduction principle for proving `Sorted`. For some predicate `motive` on multiseries,
+if `motive ms` (base case) and the predicate "survives" destruction of its argument, then `ms` is
+`Sorted`. Here "survive" means that if `x = cons (exp, coef) tl` than `motive x` must imply
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
`Sorted`. Here "survive" means that if `x = cons (exp, coef) tl` then `motive x` must imply
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 8]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+    · intro (exp, coef) tl h
+      specialize h_step exp coef tl h
+      grind
+  · apply Seq.Pairwise.coind_trans
+    · exact h_base
+    · intro (exp, coef) tl h
+      constructor
+      · intro (tl_exp, tl_coef) h_tl
+        simp only [gt_iff_lt]
+        change tl_exp < exp
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
        rw [gt_iff_lt, lt_iff_lt]
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 9]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+        replace h_step := (h_step exp coef tl h).right.left
+        cases tl <;> simp [leadingExp, head] at h_tl h_step; grind
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
        cases tl <;> simp [leadingExp, head] at h_tl h_step
        grind
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 10]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+      · specialize h_step exp coef tl h
+        grind
+
+end Multiseries
+
+/-- `[]` is `Sorted`. -/
+theorem Sorted.nil (f : ℝ → ℝ) : @Sorted (basis_hd :: basis_tl) (mk .nil f) := by
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem Sorted.nil (f : ℝ → ℝ) : Sorted (basis := basis_hd :: basis_tl) (mk .nil f) := by
```

optional: my personal preference would be using named arguments for all of these instead of `@`, but up to you

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 11]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+
+/-- The fact `Sorted (cons (exp, coef) tl)` implies that `coef` and `tl` are `Sorted`, and
+leading exponent of `tl` is less than `exp`. -/
+theorem Sorted_cons {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
+    {tl : Multiseries basis_hd basis_tl} {f : ℝ → ℝ}
+    (h : @Sorted (basis_hd :: basis_tl) (mk (.cons exp coef tl) f)) :
+    coef.Sorted ∧ tl.leadingExp < exp ∧ tl.Sorted := by
+  apply Multiseries.Sorted_cons (by simpa using h)
+
+theorem replaceFun_Sorted {ms : MultiseriesExpansion (basis_hd :: basis_tl)}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem replaceFun_sorted {ms : MultiseriesExpansion (basis_hd :: basis_tl)}
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 12]
```diff
@@ -404,6 +406,212 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+  · simp at h_tl_coef ⊢
+    grind
+  · cases tl
+    · exact Seq.Pairwise_cons_nil
+    apply Seq.Pairwise.cons_cons_of_trans _ h_tl_tl
+    simpa [lt_iff_lt] using h_comp
+
+/-- The fact `Sorted (cons (exp, coef) tl)` implies that `coef` and `tl` are `Sorted`, and
+leading exponent of `tl` is less than `exp`. -/
+theorem Sorted_cons {basis_hd basis_tl} {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_cons {basis_hd basis_tl} {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```
or better name, see comment below

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean (hunk 4 above)
Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean:467]: `s.Pairwise (· > ·)` means that whenever `i < j` we have `s[i] > s[j]`

Comment (joneugster) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean:467]: I get that much. I don't yet understand why the chosen sort-order is by decreasing exponents and not by increasing. Is this a free choice you made or does this have further implications?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 13]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+    (h_Pairwise : Seq.Pairwise (· > ·) ms.seq) : ms.Sorted
+
+/-- A multiseries `ms` is `Sorted` when the exponents at each of its levels are sorted. -/
+def Multiseries.Sorted {basis_hd basis_tl} (s : Multiseries basis_hd basis_tl) : Prop :=
+  (mk s 0).Sorted (basis := basis_hd :: basis_tl)
+
+variable {basis_hd : ℝ → ℝ} {basis_tl : Basis}
+
+@[simp]
+theorem Sorted_iff_seq_Sorted {ms : MultiseriesExpansion (basis_hd :: basis_tl)} :
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_iff_seq_sorted {ms : MultiseriesExpansion (basis_hd :: basis_tl)} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 14]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+  mpr h := by
+    cases h with | seq _ h_coef h_Pairwise =>
+    constructor
+    · simpa using h_coef
+    · simpa using h_Pairwise
+
+namespace Multiseries
+
+@[simp]
+theorem Sorted.nil : Sorted (nil : Multiseries basis_hd basis_tl) := by
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_nil : Sorted (nil : Multiseries basis_hd basis_tl) := by
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 15]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+  constructor <;> simp
+
+/-- `[(exp, coef)]` is `Sorted` when `coef` is `Sorted`. -/
+theorem Sorted.cons_nil {basis_hd basis_tl} {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_cons_nil {basis_hd basis_tl} {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 16]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+    (h_coef : coef.Sorted) :
+    Sorted (cons exp coef (.nil : Multiseries basis_hd basis_tl)) := by
+  constructor
+  · simpa
+  · simp
+
+theorem Sorted.cons {basis_hd basis_tl} {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_cons {basis_hd basis_tl} {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 17]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+  · simp at h_tl_coef ⊢
+    grind
+  · cases tl
+    · exact Seq.Pairwise_cons_nil
+    apply Seq.Pairwise.cons_cons_of_trans _ h_tl_tl
+    simpa [lt_iff_lt] using h_comp
+
+/-- If `cons (exp, coef) tl` is `Sorted`, then `coef` and `tl` are `Sorted`, and the
+leading exponent of `tl` is less than `exp`. -/
+theorem sorted_cons {basis_hd basis_tl} {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_and_leadingExp_lt_and_sorted {basis_hd basis_tl} {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 18]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+  · simp only [leadingExp_cons, WithBot.coe_lt_coe]
+    apply h_all (tl_exp, tl_coef) (by simp [cons])
+  constructor
+  · intro x hx
+    apply h_coef
+    simp at hx ⊢
+    grind
+  · assumption
+
+theorem Sorted.tail {ms : Multiseries basis_hd basis_tl} (h : ms.Sorted) :
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_tail {ms : Multiseries basis_hd basis_tl} (h : ms.Sorted) :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 19]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+        replace h_step := (h_step exp coef tl h).right.left
+        cases tl <;> simp [leadingExp, head] at h_tl h_step
+        grind
+      · specialize h_step exp coef tl h
+        grind
+
+end Multiseries
+
+/-- `[]` is `Sorted`. -/
+theorem Sorted.nil (f : ℝ → ℝ) : Sorted (basis := basis_hd :: basis_tl) (mk .nil f) := by
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_nil (f : ℝ → ℝ) : Sorted (basis := basis_hd :: basis_tl) (mk .nil f) := by
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 20]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+  simp
+
+/-- `[(exp, coef)]` is `Sorted` when `coef` is `Sorted`. -/
+theorem Sorted.cons_nil {exp : ℝ} {coef : MultiseriesExpansion basis_tl} {f : ℝ → ℝ}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_cons_nil {exp : ℝ} {coef : MultiseriesExpansion basis_tl} {f : ℝ → ℝ}
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 21]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+    (h_coef : coef.Sorted) :
+    Sorted (basis := basis_hd :: basis_tl) (mk (.cons exp coef .nil) f) := by
+  simp [Multiseries.Sorted.cons_nil h_coef]
+
+/-- `cons (exp, coef) tl` is `Sorted` when `coef` and `tl` are `Sorted` and the leading
+exponent of `tl` is less than `exp`. -/
+theorem Sorted.cons {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_cons {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 22]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+    {f : ℝ → ℝ}
+    (h_coef : coef.Sorted)
+    (h_comp : tl.leadingExp < exp)
+    (h_tl : tl.Sorted) :
+    Sorted (basis := basis_hd :: basis_tl) (mk (.cons exp coef tl) f) := by
+  simp [Multiseries.Sorted.cons h_coef h_comp h_tl]
+
+/-- If `cons (exp, coef) tl` is `Sorted`, then `coef` and `tl` are `Sorted`, and the
+leading exponent of `tl` is less than `exp`. -/
+theorem Sorted_cons {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_and_leadingExp_lt_and_sorted {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 23]
```diff
@@ -404,6 +406,211 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+    {tl : Multiseries basis_hd basis_tl} {f : ℝ → ℝ}
+    (h : Sorted (basis := basis_hd :: basis_tl) (mk (.cons exp coef tl) f)) :
+    coef.Sorted ∧ tl.leadingExp < exp ∧ tl.Sorted := by
+  apply Multiseries.sorted_cons (by simpa using h)
+
+theorem replaceFun_sorted {ms : MultiseriesExpansion (basis_hd :: basis_tl)}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]:
```suggestion
theorem sorted_replaceFun {ms : MultiseriesExpansion (basis_hd :: basis_tl)}
```
I'm not sure about this one. I think the type is `Sorted (replaceFun ms f)` and thus the `sorted_` comes first.

**Review by joneugster — COMMENTED** [review]
I've made suggestions for all the names:

- `sorted` in all names should be lower-cased (unless a namespace)
- since the type is `Sorted.nil`, I think `sorted_nil` is better than `Sorted.nil`.


I think namespaces are better to capture the type of the hypothesis, so `Sorted.nil` looks like 

```
def Sorted.nil (s : a.Sorted) : nil := ...
```

**Comment by vasnesterov** [comment]
I prefer `Sorted.nil` over `sorted_nil` because for `Multiseries` this predicate behaves like a coinductive type:
```lean4
coinductive Sorted {basis_hd basis_tl} : Multiseries basis_hd basis_tl → Prop
| nil : Sorted Multiseries.nil
| cons {exp coef tl} (h_head : tl.leadingExp < exp) (h_tail : Sorted tl) : Sorted (cons exp coef tl)
```
and I treat `Sorted.nil` and `Sorted.cons` as its constructors.

I've renamed `sorted_cons` to `Sorted.cons_elim` since it acts as a "destructor" for `Sorted (cons _ _ _)`.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean (hunk 4 above)
Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean:467]: We need the first term in a multiseries to be the leading one. The subsequent terms have smaller exponents, meaning that (in a well-formed basis) they are asymptotically smaller than the first term.

Comment (joneugster) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean:467]: ah I understand 👍

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean [hunk 24]
```diff
@@ -406,6 +408,205 @@ theorem replaceFun_seq {basis_hd basis_tl}
...
+    {f : ℝ → ℝ}
+    (h_coef : coef.Sorted)
+    (h_comp : tl.leadingExp < exp)
+    (h_tl : tl.Sorted) :
+    Sorted (basis := basis_hd :: basis_tl) (mk (.cons exp coef tl) f) := by
+  simp [Multiseries.Sorted.cons h_coef h_comp h_tl]
+
+/-- If `cons (exp, coef) tl` is `Sorted`, then `coef` and `tl` are `Sorted`, and the
+leading exponent of `tl` is less than `exp`. -/
+theorem cons_elim {exp : ℝ} {coef : MultiseriesExpansion basis_tl}
```
Comment (joneugster) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Defs.lean]: ok I like that, but why is this one `cons_elim` and the others `elim_cons`?

**Review by joneugster — APPROVED** [review]
Thank you for the PR!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
